US04107169
EXAMPLE 18 -- Preparation of 2-(4-carbomethoxyphenyl)-5-carboxybenzoxazole (XVIII)
In the apparatus described in Example 1, 12.7 g of 4-trichloromethylbenzoic acid methyl ester (0.05 mol) and 7.5 g of 3-amino-4-hydroxybenzoic acid (0.05 mol) were mixed and heated for 6 hours at 200° C. The reaction product after grinding in a mortar was extracted twice with 100 ml of CHCl3 and then, after drying, twice with 100 ml of water. 9.2 g of raw product remained, melting at 275° to 284° C (62% of the theory). After two recrystallizations with dimethyl formamide plus active charcoal and dimethylsulfoxide, the melting point was 291° to 293° C.

reactant | 4-trichloromethylbenzoic acid methyl ester | 0.05 mol, 12.7 g | COC(C1=CC=C(C=C1)C(Cl)(Cl)Cl)=O | C9H7Cl3O2
reactant | 3-amino-4-hydroxybenzoic acid | 0.05 mol, 7.5 g | NC=1C=C(C(=O)O)C=CC1O | C7H7NO3
product | 2-(4-carbomethoxyphenyl)-5-carboxybenzoxazole | C(=O)(OC)C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C(=O)O | C16H11NO5
